US06060484
A. 2-Chloro-3-methyl aniline
A mixture of 2-chloro-3-nitrotoluene (1.0 g, 5.8 mmol) and 5% platinum-on-carbon (0.1 g) in 25 ml of EtOH was reacted overnight at room temperature and 60 psi. The reaction mixture was filtered and the filtrate concentrated in vacuo to provide an oil. This oil was dissolved in EtOAc, washed with H2O, dried over Na2SO4, filtered and then concentrated in vacuo.

reactant | 2-chloro-3-nitrotoluene | 5.8 mmol, 1.0 g | ClC1=C(C=CC=C1[N+](=O)[O-])C | C7H6ClNO2
solvent | EtOH | 25 ml | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | platinum-on-carbon | 0.1 g | [Pt] | Pt
product | 2-Chloro-3-methyl aniline | ClC1=C(N)C=CC=C1C | C7H8ClN
